US09422311B2
To a 100 mL round-bottom flask equipped with a stir bar and charged with tert-butyl 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate (8.42 g, 13.0 mmol) in CH2Cl2 (15 mL) was added trifluoroacetic acid (15.0 mL, 195 mmol). The solution was stirred at room temperature for 2 h. The solution was diluted with toluene (20 mL) and then concentrated in vacuo to afford crude 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid as a solid foam.

reactant | tert-butyl 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate | 13.0 mmol, 8.42 g | BrCCCOC1=C(C=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1)Cl | C26H28BrClF3N5O4
reactant | trifluoroacetic acid | 195 mmol, 15.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid | BrCCCOC1=C(C=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1)Cl | C22H20BrClF3N5O4
